2174-12-19 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Flu swab negative
   Vanc trough 28
   Symptoms significantly improved with 1mg doses of morphine
   FENa 0.83% so given 250cc bolus NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-12-19**] 06:30 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2174-12-18**] 11:10 PM
   Heparin Sodium (Prophylaxis) - [**2174-12-19**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-19**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 90 (84 - 113) bpm
   BP: 115/52(64) {105/46(61) - 140/109(114)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                    779 mL
                                                                    423 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                    629 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    160 mL
   Urine:
                                                                    360 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    419 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   224 K/uL
   8.8 g/dL
   96 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   148 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2174-12-19**]  06:10 AM
   WBC
   7.4
   Hct
   27.5
   Plt
   224
   Cr
   1.3
   Glucose
   96
   Other labs: Differential-Neuts:78.7 %, Lymph:10.0 %, Mono:3.3 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   A/P
   Mr. [**Known lastname **] is a [**Age over 90 **] year old man with a history of COPD on home
   oxygen, HTN, asbestosis, recurrent bilateral pleural effusions, severe
   pulmonary HTN, chronic aspiration, with multiple recent admissions,
   returns from NH with hypoxia in setting of Vanc/Zosyn treatment of
   HAP.
   .
   # Hypoxia: Discharged to NH on Vanc/Zosyn for HAP vs Aspiration PNA. On
   discharge was satting ~90. Known MRSA, multiple prior pulm infections,
   usually pansensitive (Kleb, citrobacter). Has been broadly covered,
   only missing ESBL and not double covered for Pseudomonas. Possible he
   is recurrently aspirating or mucous plugging. Also appears mildly fluid
   overloaded.
   -- Flu swab
   -- continue tamiflu, Vanc/Zosyn for now.
   -- nebs
   -- goal O2 sat low 90s
   - Consider lasix if desaturating
   - consider broaden to meropenem if spikes
   .
   # Goals of care: Pt decided against feeding tube placement at recent
   admission, but has consistently been DNR/DNI. Given severe lung
   disease, intubation would carry significant risk of difficulty
   extubating. Family had long discussion with Dr. [**Last Name (STitle) 2021**] who knows the
   patient and his family very well and have come to the decision that
   will try to support pt. for now but if he decompensates will change
   goals to comfort.
   -- DNR/DNI
   -- If decompensates start morphine drip
   .
   #. Wound: Open area with fluid draining.
   -- culture obtained
   .
   #. Chronic Renal Failure - Cr at 1.4, above baseline of 1.1-1.2. but
   appears slightly edematous on exam.
   -- consider gentle hydration (EF 80%).
   .
   #. COPD: Continue home nebs at increased frequency.
   .
   #. Hypertension: Meds recently switched to metoprolol for more frequent
   dosing.
   .
   #. GERD: Continue lansoprazole.
   .
   #. Anxiety/sleep: Trazodone discontinued given previous sedation.
   .
   #. Glaucoma: Continue Timolol Maleate 0.5 % Drops 1 drop [**Hospital1 **].
   .
   #. Pressure ulcer: The patient has a stage II pressure ulcer on his
   coccyx gluteal region.
   .
   #. Recent femoral hernia repair: Wet to dry dressing changes. Small
   amount of drainage again today. Will continue to monitor the area for
   worsening or development of infection.
   -- Recall wound consult.
   .
   #. PPX:
   - DVT ppx with hep sc.
   - Aggressive Bowel regimen given h/o fecal impaction but recently
   responsive to enema, suppositories.
   - Aspiration precautions, pureed and nectar thick diet
   .
   #. ACCESS: Right PICC, 18 G left AC
   .
   #. CODE STATUS: DNR/DNI confirmed with patient
   .
   #. EMERGENCY CONTACT:
   Wife [**Name (NI) 10514**] [**Name (NI) **] who can make health care decisions if he cannot.
   [**Location (un) 2558**], daughter, [**Name (NI) **], [**First Name3 (LF) **].
   .
   #. DISPO: MICU green

2174-12-19 10:20:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   HPI:
   [**Age over 90 **]M with PMHx of chronic pleural effusions s/p bilateral pigtails,
   severe pulmonary HTN, COPD, asbestosis; recently admitted and
   discharged with HCAP treated with vancomycin and zosyn and now returns
   with worsening hypoxemia from rehab.  Family meeting following
   admission and confirmed patient DNR/DNI.  Clinical picture consistent
   with recurrent aspiration.
   24 Hour Events:
   Continued vancomycin/zosyn following admission.
   Appeared mildly hypovolemic based on increased Cr, tachycardia; however
   with desaturation this morning he was given a dose of lasix with
   minimal increase in urine output.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2174-12-19**] 06:30 AM
   Vancomycin - [**2174-12-19**] 08:04 AM
   Other ICU medications:
   Morphine Sulfate - [**2174-12-18**] 11:10 PM
   Heparin Sodium (Prophylaxis) - [**2174-12-19**] 05:00 AM
   Furosemide (Lasix) - [**2174-12-19**] 09:04 AM
   Other medications:
   MVI
   Lipitor
   Lansoprazole
   Colace
   ASA
   Doxazosin
   Metoprolol
   Ducolax
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-19**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.5
   HR: 92 (84 - 113) bpm
   BP: 114/48(62) {105/44(59) - 140/109(114)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   Mixed Venous O2% Sat: 59 - 59
   Total In:
                                                                    779 mL
                                                                    650 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                    629 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    205 mL
   Urine:
                                                                    360 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    419 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   Gen: no distress
   Chest: clear ant
   CV: S1S2 reg
   Abd: soft, nontender
   Ext: no edema
   Labs / Radiology
   8.8 g/dL
   224 K/uL
   96 mg/dL
   1.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   148 mEq/L
   27.5 %
   7.4 K/uL
        [image002.jpg]
                            [**2174-12-19**]  06:10 AM
   WBC
   7.4
   Hct
   27.5
   Plt
   224
   Cr
   1.3
   Glucose
   96
   Other labs: Differential-Neuts:78.7 %, Lymph:10.0 %, Mono:3.3 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.4 mg/dL
   CT chest, recent CXRs reviewed. Significant new RML/RLL pneumonia,
   bilat effusions, enlarging pleural-based nodules/masses, emphysema.
   Micro: pending; viral panel negative
   Assessment and Plan
   [**Age over 90 **]yoM with multiple comorbidities; admitted with likely recurrent
   aspiration pneumonitis/pna.
   1.       Respiratory failure:  DNR/DNI, clearly confirmed with patient
   and family.  Suspect primary issue is aspiration PNA, currently being
   treated with abx.  Declines NT suctioning. Also has enlarging pleural
   based nodules concerning for mesothelioma.
   - continue abx
   - try to diurese more aggressively with additional dose of lasix
   - Supportive care; morphine for dyspnea
   2.       Chronic renal failure:  Cr is up slightly; also mild
   hypernatremia.  He denies thirst, dry mouth.
   - will try to diurese gently and aim for slightly negative
   3.       ID:  PNA
   - continue vancomycin/zosyn; await repeat cultures
   ICU Care
   Nutrition:  Diet as tolerates per patient request
   Glycemic Control:  Insulin sliding scale
   Lines:
   18 Gauge - [**2174-12-18**] 11:07 AM
   PICC Line - [**2174-12-18**] 11:09 AM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:  PPI
   VAP: Not intubated
   Communication:  Patient and family updated during rounds
   Code status: DNR / DNI
   Disposition : Critically ill with hypoxemia ; remain in ICU
   Total time spent:  35 minutes

2174-12-20 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Diuresed well with 10mg IV lasix
   O2 requirements down some to NC + face tent
   Wound care recs in.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-12-19**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-12-20**] 06:49 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-12-19**] 10:00 AM
   Morphine Sulfate - [**2174-12-19**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2174-12-19**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-20**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 82 (68 - 94) bpm
   BP: 105/41(56) {88/25(42) - 135/61(75)} mmHg
   RR: 16 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    890 mL
                                                                    172 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    440 mL
   Urine:
                                                                  2,025 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   8.3 g/dL
   88 mg/dL
   1.2 mg/dL
   36 mEq/L
   3.3 mEq/L
   15 mg/dL
   105 mEq/L
   145 mEq/L
   25.9 %
   6.7 K/uL
        [image002.jpg]
                            [**2174-12-19**]  06:10 AM
                            [**2174-12-20**]  05:28 AM
   WBC
   7.4
   6.7
   Hct
   27.5
   25.9
   Plt
   224
   180
   Cr
   1.3
   1.2
   Glucose
   96
   88
   Other labs: Differential-Neuts:78.7 %, Lymph:10.0 %, Mono:3.3 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.9 mg/dL
   A/P
   Mr. [**Known lastname **] is a [**Age over 90 **] year old man with a history of COPD on home
   oxygen, HTN, asbestosis, recurrent bilateral pleural effusions, severe
   pulmonary HTN, chronic aspiration, with multiple recent admissions,
   returns from NH with hypoxia in setting of Vanc/Zosyn treatment of
   HAP.
   .
   # Hypoxia: Most likely recurrent aspiration as is mostly right sided.
   Flu negative. Pt. refusing nasal suctioning.
   -- continue Vanc/Zosyn for now.
   -- nebs
   -- goal O2 sat low 90s
   - lasix
   - consider broaden to meropenem if spikes
   .
   # Goals of care: Pt decided against feeding tube placement at recent
   admission, but has consistently been DNR/DNI. Given severe lung
   disease, intubation would carry significant risk of difficulty
   extubating. Family had long discussion with Dr. [**Last Name (STitle) 2021**] who knows the
   patient and his family very well and have come to the decision that
   will try to support pt. for now but if he decompensates will change
   goals to comfort.
   -- DNR/DNI
   -- If decompensates start morphine drip
   .
   #. Wound: Open area with fluid draining.
   -- f/u culture
   .
   #. Chronic Renal Failure - Cr improved w/ gentle hydration
   -- consider gentle hydration (EF 80%).
   .
   #. COPD: Continue home nebs at increased frequency.
   .
   #. Hypertension: Meds recently switched to metoprolol for more frequent
   dosing.
   .
   #. GERD: Continue lansoprazole.
   .
   #. Anxiety/sleep: Trazodone discontinued given previous sedation.
   .
   #. Glaucoma: Continue Timolol Maleate 0.5 % Drops 1 drop [**Hospital1 **].
   .
   #. Pressure ulcer: The patient has a stage II pressure ulcer on his
   coccyx gluteal region.
   .
   #. Recent femoral hernia repair: Wet to dry dressing changes.
   -- f/u wound recs
   .
   #. PPX:
   - DVT ppx with hep sc.
   - Aggressive Bowel regimen given h/o fecal impaction but recently
   responsive to enema, suppositories.
   - Aspiration precautions, pureed and nectar thick diet
   .
   #. ACCESS: Right PICC, 18 G left AC
   .
   #. CODE STATUS: DNR/DNI confirmed with patient
   .
   #. EMERGENCY CONTACT:
   Wife [**Name (NI) 10514**] [**Name (NI) **] who can make health care decisions if he cannot.
   [**Location (un) 2558**], daughter, [**Name (NI) **], [**First Name3 (LF) **].
   .
   #. DISPO: MICU green, can likely call out tomorrow

2174-12-20 10:38:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85yoM with history of recent HAP, and recurrent aspiration; admitted
   with hypoxemia and recurrent aspiration.
   24 Hour Events:
   Diuresed yesterday with improvement in oxygenation.
   Now on 2L O2 by NC and stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-12-19**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-12-20**] 06:49 AM
   Other ICU medications:
   Morphine Sulfate - [**2174-12-19**] 08:39 PM
   Heparin Sodium (Prophylaxis) - [**2174-12-19**] 08:40 PM
   Furosemide (Lasix) - [**2174-12-20**] 09:58 AM
   Other medications:
   MVI
   Lipitor
   ASA
   Prazosin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-20**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 84 (68 - 96) bpm
   BP: 102/37(54) {88/25(42) - 121/54(65)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    890 mL
                                                                    228 mL
   PO:
             TF:
   IVF:
                                                                    890 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    660 mL
   Urine:
                                                                  2,025 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,135 mL
                                                                   -432 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   Gen: awake, alert, conversant, NAD
   Chest: crackles at right base
   CV:  RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   8.3 g/dL
   180 K/uL
   88 mg/dL
   1.2 mg/dL
   36 mEq/L
   3.3 mEq/L
   15 mg/dL
   105 mEq/L
   145 mEq/L
   25.9 %
   6.7 K/uL
        [image002.jpg]
                            [**2174-12-19**]  06:10 AM
                            [**2174-12-20**]  05:28 AM
   WBC
   7.4
   6.7
   Hct
   27.5
   25.9
   Plt
   224
   180
   Cr
   1.3
   1.2
   Glucose
   96
   88
   Other labs: Differential-Neuts:78.7 %, Lymph:10.0 %, Mono:3.3 %,
   Eos:7.7 %, Lactic Acid:0.8 mmol/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM with h/o aspiration and PNA; admitted with hypoxemia in setting
   of recurrent aspiration.
   1.       Hypoxemia:  overall improved with time, abx, diuresis; suspect
   aspiration pneumonitis
   - Day 8 of abx from prior admission, without evidence of new infectious
   etiology.
   - Diuresis today, aim TBB negative 500ml today
   - Stable for transfer to floor
   - Patient declines suctioning
   - morphine prn for dyspnea
   2.       PNA:  Recent treatment for HCAP
   - complete course of ABX today, would discontinue given lack of other
   infectious etiologies or new infection.
   3.       Renal:  Acute renal failure in the setting of acute illness;
   improving with diuresis.
   - Diuresis today
   4.       CV:  HTN
   - continue home regimen
   ICU Care
   Nutrition:  Comments: Diet per patient
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2174-12-18**] 11:07 AM
   PICC Line - [**2174-12-18**] 11:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:  Not inbutated
   Communication:  Patient and family updated during rounds
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2174-12-21 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Emailed surgeon (Dr. [**Last Name (STitle) 1688**] who said, "my team will take a look".
   Transient SSCP resolved with EKG.  EKG unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-12-19**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-12-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2174-12-20**] 09:58 AM
   Morphine Sulfate - [**2174-12-21**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2174-12-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-21**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 85 (68 - 105) bpm
   BP: 110/45(60) {85/32(46) - 121/82(91)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    490 mL
                                                                    173 mL
   PO:
             TF:
   IVF:
                                                                    490 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    430 mL
   Urine:
                                                                  1,940 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///41/
   Physical Examination
   Gen: A/Ox3
   Heart: RRR, III/VI HSM
   Lungs: Crackles in bases bilaterally
   Abd: Soft, NT, ND, BS+
   Ext: [**1-7**] pitting edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**]
   Labs / Radiology
   199 K/uL
   8.5 g/dL
   88 mg/dL
   1.2 mg/dL
   41 mEq/L
   3.5 mEq/L
   13 mg/dL
   102 mEq/L
   145 mEq/L
   26.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2174-12-19**]  06:10 AM
                            [**2174-12-20**]  05:28 AM
                            [**2174-12-21**]  03:29 AM
   WBC
   7.4
   6.7
   6.9
   Hct
   27.5
   25.9
   26.3
   Plt
   [**Telephone/Fax (3) 10547**]
   Cr
   1.3
   1.2
   1.2
   Glucose
   96
   88
   88
   Other labs: Differential-Neuts:78.7 %, Lymph:10.0 %, Mono:3.3 %,
   Eos:7.7 %, Lactic Acid:0.9 mmol/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   A/P
   Mr. [**Known lastname **] is a [**Age over 90 **] yo M w/ COPD on home O2, severe pulmonary HTN,
   recurrent aspiration PNA, dCHF and recent HAP p/w hypoxia.
   .
   # Hypoxia: Continues to improve with diuresis.
   -- discontinued Vanc/Zosyn
   -- nebs
   -- goal O2 sat low 90s
   - lasix 20mg IV once again today
   - consider broaden to meropenem if spikes again
   .
   # Goals of care: Given goals of care, he should be manageable on the
   floor as we are not escalating care
   - Called out to Dr. [**Last Name (STitle) 2021**]
s service yesterday
   -- DNR/DNI
   -- If decompensates start morphine drip
   .
   #. Wound: Open area with fluid draining.  Had some coag + staph of
   unclear significance colonizing vs. infection.
   - Surgery to come see
   .
   #. Chronic Renal Failure - stable
   -- continue diuresis
   .
   #. COPD: Continue home nebs at increased frequency.
   .
   #. Hypertension: Well controlled. Meds recently switched to metoprolol
   for more frequent dosing.
   .
   #. GERD: Continue lansoprazole.
   .
   #. Anxiety/sleep: Trazodone PRN insomnia
   .
   #. Glaucoma: Continue Timolol Maleate 0.5 % Drops 1 drop [**Hospital1 **].
   .
   #. Pressure ulcer: The patient has a stage II pressure ulcer on his
   coccyx gluteal region.
   .
   #. Recent femoral hernia repair: Wet to dry dressing changes.
   -- f/u wound recs
   .
   #. PPX:
   - DVT ppx with hep sc.
   - Aggressive Bowel regimen given h/o fecal impaction but recently
   responsive to enema, suppositories.
   - Aspiration precautions, pureed and nectar thick diet
   .
   #. ACCESS: Right PICC
   .
   #. CODE STATUS: DNR/DNI confirmed with patient
   .
   #. EMERGENCY CONTACT:
   Wife [**Name (NI) 10514**] [**Name (NI) **] who can make health care decisions if he cannot.
   [**Location (un) 2558**], daughter, [**Name (NI) **], [**First Name3 (LF) **].
   .
   #. DISPO: MICU green, can likely call out tomorrow
   ------ Protected Section ------
   Pt. has had recent acute deterioration, discussed with pt. and his son
   [**Name (NI) **] that bipap would be medically inadvisable and is not indicated as
   it will worsen his aspiration which appears to be the cause of his
   recent deterioration.
   ------ Protected Section Addendum Entered By:[**Name (NI) 8938**] [**Last Name (NamePattern1) 2318**], MD
   on:[**2174-12-21**] 13:29 ------

2174-12-21 10:24:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]yoM with recent PNA and recurrent aspiration events; returns with
   aspiration pneumonitis.
   24 Hour Events:
   Stable overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2174-12-19**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2174-12-21**] 06:00 AM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2174-12-21**] 06:00 AM
   Morphine Sulfate - [**2174-12-21**] 08:12 AM
   Other medications:
   MVI
   Lipitor
   Colace
   Lansoprazole
   ASA
   Doxazosin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-21**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.8
   HR: 91 (75 - 105) bpm
   BP: 110/49(64) {85/32(46) - 120/82(91)} mmHg
   RR: 19 (14 - 33) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    490 mL
                                                                    201 mL
   PO:
             TF:
   IVF:
                                                                    490 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    490 mL
   Urine:
                                                                  1,940 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,450 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///41/
   Physical Examination
   Gen: awake, alert
   Chest:  diminished breath sounds at right base; scattered crackles
   CV:  RRR
   Abd: s/nt/nd
   Ext: trace edema
   Labs / Radiology
   8.5 g/dL
   199 K/uL
   88 mg/dL
   1.2 mg/dL
   41 mEq/L
   3.5 mEq/L
   13 mg/dL
   102 mEq/L
   145 mEq/L
   26.3 %
   6.9 K/uL
        [image002.jpg]
                            [**2174-12-19**]  06:10 AM
                            [**2174-12-20**]  05:28 AM
                            [**2174-12-21**]  03:29 AM
   WBC
   7.4
   6.7
   6.9
   Hct
   27.5
   25.9
   26.3
   Plt
   [**Telephone/Fax (3) 10547**]
   Cr
   1.3
   1.2
   1.2
   Glucose
   96
   88
   88
   Other labs: Differential-Neuts:78.7 %, Lymph:10.0 %, Mono:3.3 %,
   Eos:7.7 %, Lactic Acid:0.9 mmol/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoM, COPD, pulmonary hypertension; recent admission with PNA and
   known to have recurrent aspiration; returned with aspiration
   pneumonitis possible pulmonary edema.
   1.  Hypoxemia:  Likely aspiration pneumonitis.  No evidence for new
   infection.
   - continue diuresis
   - off antibiotics
   - stable for floor
   - continue home O2; SpO2 88-92% goal.
   2.  PNA:  completed course for HCAP
   3.       Renal:   Cr stable at 1.2
   - continue gentle diuresis, aim TBB negative 500ml.
   4.  COPD: home regimen
   ICU Care
   Nutrition: PO per patient
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2174-12-18**] 11:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  Not intubated
   Communication:  Comments: Patient and family updated during rounds
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 20 minutes